ROM flasher channel 24; sol24
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb-100/tools/spice/models.lib
Vcmd cmd 0 PWL(
+ 0.000000000000 0.00
+ 0.199999980000 0.00
+ 0.200000000000 4.50
+ 0.226423480000 4.50
+ 0.226423500000 0.00
+ 0.367269480000 0.00
+ 0.367269500000 4.50
+ 0.393496480000 4.50
+ 0.393496500000 0.00
+ 0.550215480000 0.00
+ 0.550215500000 4.50
+ 0.566637480000 4.50
+ 0.566637500000 0.00
+ 0.745354480000 0.00
+ 0.745354500000 4.50
+ 0.777352980000 4.50
+ 0.777353000000 0.00
+ 0.929584980000 0.00
+ 0.929585000000 4.50
+ 0.960792980000 4.50
+ 0.960793000000 0.00
+ 1.105739480000 0.00
+ 1.105739500000 4.50
+ 1.134872480000 4.50
+ 1.134872500000 0.00
+ 1.281301480000 0.00
+ 1.281301500000 4.50
+ 1.309815480000 4.50
+ 1.309815500000 0.00
+ 1.434988480000 0.00
+ 1.434988500000 4.50
+ 1.468695980000 4.50
+ 1.468696000000 0.00
+ 1.598857980000 0.00
+ 1.598858000000 4.50
+ 1.627255480000 4.50
+ 1.627255500000 0.00
+ 1.762625980000 0.00
+ 1.762626000000 4.50
+ 1.793215980000 4.50
+ 1.793216000000 0.00
+ 1.926602480000 0.00
+ 1.926602500000 4.50
+ 1.952025480000 4.50
+ 1.952025500000 0.00
+ 2.091472980000 0.00
+ 2.091473000000 4.50
+ 2.118774980000 4.50
+ 2.118775000000 0.00
+ 2.254198980000 0.00
+ 2.254199000000 4.50
+ 2.285850980000 4.50
+ 2.285851000000 0.00
+ 2.418012480000 0.00
+ 2.418012500000 4.50
+ 2.443544480000 4.50
+ 2.443544500000 0.00
+ 2.581889980000 0.00
+ 2.581890000000 4.50
+ 2.610295980000 4.50
+ 2.610296000000 0.00
+ 2.746259480000 0.00
+ 2.746259500000 4.50
+ 2.777369480000 4.50
+ 2.777369500000 0.00
+ 2.909661480000 0.00
+ 2.909661500000 4.50
+ 2.935065480000 4.50
+ 2.935065500000 0.00
+ 3.073355980000 0.00
+ 3.073356000000 4.50
+ 3.101815980000 4.50
+ 3.101816000000 0.00
+ 3.237237980000 0.00
+ 3.237238000000 4.50
+ 3.268888480000 4.50
+ 3.268888500000 0.00
+ 3.402079480000 0.00
+ 3.402079500000 4.50
+ 3.435639480000 4.50
+ 3.435639500000 0.00
+ 3.583458980000 0.00
+ 3.583459000000 4.50
+ 3.609719980000 4.50
+ 3.609720000000 0.00
+ 3.745154480000 0.00
+ 3.745154500000 4.50
+ 3.776791980000 4.50
+ 3.776792000000 0.00
+ 3.928619480000 0.00
+ 3.928619500000 4.50
+ 3.959926980000 4.50
+ 3.959927000000 0.00
+ 4.227986480000 0.00
+ 4.227986500000 4.50
+ 4.260135980000 4.50
+ 4.260136000000 0.00
+ 4.397592480000 0.00
+ 4.397592500000 4.50
+ 4.426887980000 4.50
+ 4.426888000000 0.00
+ 4.626927980000 0.00
+ 4.626928000000 4.50
+ 4.660362980000 4.50
+ 4.660363000000 0.00
+ 4.793717980000 0.00
+ 4.793718000000 4.50
+ 4.827415980000 4.50
+ 4.827416000000 0.00
+ 4.957532980000 0.00
+ 4.957533000000 4.50
+ 4.985113480000 4.50
+ 4.985113500000 0.00
+ 5.121337480000 0.00
+ 5.121337500000 4.50
+ 5.151879980000 4.50
+ 5.151880000000 0.00
+ 5.285218480000 0.00
+ 5.285218500000 4.50
+ 5.318936980000 4.50
+ 5.318937000000 0.00
+ 5.449037480000 0.00
+ 5.449037500000 4.50
+ 5.476631980000 4.50
+ 5.476632000000 0.00
+ 5.612863980000 0.00
+ 5.612864000000 4.50
+ 5.643400480000 4.50
+ 5.643400500000 0.00
+ 5.776738980000 0.00
+ 5.776739000000 4.50
+ 5.810457480000 4.50
+ 5.810457500000 0.00
+ 5.940554480000 0.00
+ 5.940554500000 4.50
+ 5.969015980000 4.50
+ 5.969016000000 0.00
+ 6.104380980000 0.00
+ 6.104381000000 4.50
+ 6.134919980000 4.50
+ 6.134920000000 0.00
+ 6.268261980000 0.00
+ 6.268262000000 4.50
+ 6.301976980000 4.50
+ 6.301977000000 0.00
+ 6.432070480000 0.00
+ 6.432070500000 4.50
+ 6.460534980000 4.50
+ 6.460535000000 0.00
+ 6.681981480000 0.00
+ 6.681981500000 4.50
+ 6.710397980000 4.50
+ 6.710398000000 0.00
+ 6.846357980000 0.00
+ 6.846358000000 4.50
+ 6.877463980000 4.50
+ 6.877464000000 0.00
+ 7.005865480000 0.00
+ 7.005865500000 4.50
+ 7.035159980000 4.50
+ 7.035160000000 0.00
+ 7.169488980000 0.00
+ 7.169489000000 4.50
+ 7.201918980000 4.50
+ 7.201919000000 0.00
+ 7.333209980000 0.00
+ 7.333210000000 4.50
+ 7.360792980000 4.50
+ 7.360793000000 0.00
+ 7.497083480000 0.00
+ 7.497083500000 4.50
+ 7.526682480000 4.50
+ 7.526682500000 0.00
+ 7.660913480000 0.00
+ 7.660913500000 4.50
+ 7.693440480000 4.50
+ 7.693440500000 0.00
+ 7.824783480000 0.00
+ 7.824783500000 4.50
+ 7.852314480000 4.50
+ 7.852314500000 0.00
+ 7.988547480000 0.00
+ 7.988547500000 4.50
+ 8.018202980000 4.50
+ 8.018203000000 0.00
+ 8.152528980000 0.00
+ 8.152529000000 4.50
+ 8.184958480000 4.50
+ 8.184958500000 0.00
+ 8.316247480000 0.00
+ 8.316247500000 4.50
+ 8.343833480000 4.50
+ 8.343833500000 0.00
+ 10.200000000000 0.00
+ 10.200000020000 0.00
+ 10.230000000000 0.00
+ )
Ro cmd a 40
Rg a gate 100
Rpd gate 0 10k
Vsense drain dq 0
XQ dq gate 0 J100_AOD66923
Vclamp clamprail 0 30
Vdiode drain da 0
Dfly da clamprail DS1M
Vlamp clamprail feed 0
Rwire feed wire .1
Lwire wire lp 100u
Blamp lp drain I=1*v(lp,drain)/(1.8+16.2*max(v(theta),0))
Bheat 0 theta I=(v(lp,drain)^2/(1.8+16.2*max(v(theta),0)))/(169/18)
Ctheta theta 0 8m
Rtheta theta 0 1
.save v(drain) v(gate) i(Vsense) i(Vdiode) @dfly[capcur]
.options reltol=.002 method=gear
.tran 100u 10.230000000 0 10u
.control
run
let pfet=v(drain)*i(Vsense)
let carrier=i(Vdiode)-@dfly[capcur]
let forward=(abs(carrier)+carrier)/2
let sim_end=time[length(time)-1]
print sim_end
meas tran vds_peak MAX v(drain)
meas tran vgs_peak MAX v(gate)
meas tran current_peak MAX i(Vsense)
meas tran current_avg AVG i(Vsense) from=0.200000000 to=10.200000000
meas tran diode_average AVG forward from=0.200000000 to=10.200000000
meas tran power_average AVG pfet from=0.200000000 to=10.200000000
let tj=50+power_average*62
print tj
.endc
.end
